US04020171
Formaldehyde dimethyl mercaptal S-oxide (1.571 g) was dissolved in 15 ml. of tetrahydrofuran, and 8.9 ml. of an n-hexane solution of n-butyl lithium (1.4 millimols/milliliter) was added at -10° C. The mixture was stirred for 80 minutes, and then at -70° C., 1.125 g of 1,3-dibromobutane was added, and the mixture was stirred for 46.5 hours at room temperature. Methylene chloride (100 ml) was added. The mixture was washed with water and dried with anhydrous magnesium sulfate. It was concentrated at reduced pressure, and the residue was separated by column chromatography (Florisil, eluted with methylene chloride) to afford 746 mg of 2-methylcyclobutanone dimethyl mercaptal S-oxide. The product was oxidized with hydrogen peroxide and Na2WO4 to form its disulfone derivative.

reactant | Formaldehyde dimethyl mercaptal S-oxide | 1.571 g | CSCS(C)=O | C3H8OS2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | n-butyl lithium | 1.4 millimols/milliliter | C(CCC)[Li]
reactant | 1,3-dibromobutane | 1.125 g | BrCCC(C)Br | C4H8Br2
solvent | Methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | n-hexane | CCCCCC | C6H14
product | 2-methylcyclobutanone dimethyl mercaptal S-oxide | 746 mg | CSC1(C(CC1)C)S(C)=O | C7H14OS2
